US07754737B2
To a mixture of tert-butyl (2S,3S)-3-amino-1-cyclohexylbutan-2-ylcarbamate (0.153 g, 0.57 mmol) and Et3N (0.19 mL, 1.42 mmol) in methanol (5 mL) at 0° C. was added dropwise a solution of CBZCl (0.116 g, 0.68 mmol) in methanol (3 mL). The mixture was warmed to rt, stirred 2 h, evaporated to remove methanol, diluted with water (15 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (15 mL), dried and evaporated to give benzyl (2S,3S)-3-(tert-butoxycarbonyl)amino-4-cyclohexylbutan-2-ylcarbamate (0.117 g, 51%) that was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): 7.32 (m, 5H), 5.37 (brs, 1H), 5.09 (s, 2H), 4.36 (brs (1H), 3.76 (m, 2H), 1.82 (m, 1H), 1.66 (m, 4H), 1.44 (s, 9H), 1.35-1.10 (m, 6H), 1.07 (d, J=6.4 Hz, 3H), 1.00-0.78 (m, 2H); MS (E/Z): 405 (M+H+).

reactant | tert-butyl (2S,3S)-3-amino-1-cyclohexylbutan-2-ylcarbamate | 0.57 mmol, 0.153 g | N[C@H]([C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)C | C15H30N2O2
reactant | Et3N | 1.42 mmol, 0.19 mL | CCN(CC)CC | C6H15N
reactant | CBZCl | 0.68 mmol, 0.116 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | benzyl (2S,3S)-3-(tert-butoxycarbonyl)amino-4-cyclohexylbutan-2-ylcarbamate | 0.117 g, 51% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)CC1CCCCC1 | C23H36N2O4
